US08487108B2
2-(benzyloxycarbonylamino)-3-(bicyclo[2.2.2]octan-1-yl)propyl methanesulfonate (830 mg, 2.1 mmol) was dissolved in 15 mL of NH2Me in MeOH and stirred at 30-40° C. overnight. The mixture was concentrated to give benzyl 1-(bicyclo[2.2.2]octan-1-yl)-3-(methylamino)propan-2-ylcarbamate (1.0 g, crude) as an oil, which was used in the next step without further purification. MS ESI +ve m/z 331 (M+H).

reactant | 2-(benzyloxycarbonylamino)-3-(bicyclo[2.2.2]octan-1-yl)propyl methanesulfonate | 2.1 mmol, 830 mg | CS(=O)(=O)OCC(CC12CCC(CC1)CC2)NC(=O)OCC2=CC=CC=C2 | C20H29NO5S
reactant | NH2Me | 15 mL | NC | CH5N
solvent | MeOH | CO | CH4O
product | benzyl 1-(bicyclo[2.2.2]octan-1-yl)-3-(methylamino)propan-2-ylcarbamate | 1.0 g | C12(CCC(CC1)CC2)CC(CNC)NC(OCC2=CC=CC=C2)=O | C20H30N2O2
